US06627651B1
A suspension of magnesium (2.36 g) in THF (100 ml) was stirred under a nitrogen atmosphere, and thereto was added dibromoethane (a catalytic amount) and was subsequently added dropwise a solution of 5-bromo-2-(2-ethoxyethoxy)-1,3-dimethylbenzene (24.1 g) in anhydrous THF (100 ml). The resulting mixture was heated at 55° C. for 2.5 hours and was then cooled to −78° C., and thereto was added dropwise trimethyl borate (19.8 ml). The reaction mixture was brought back to the room temperature and was stirred overnight. The reaction mixture was mixed with 1 N hydrochloric acid, was concentrated and was extracted with ethyl acetate. The organic layer was washed with water and an aqueous saturated solution of sodium chloride, and was dried with anhydrous magnesium sulfate. The resulting organic layer was evaporated under reduced pressure to remove the solvent to obtain 4-(2-ethoxyethoxy)-3,5-dimethylphenylboric acid (8.4 g) as colorless crystals.

reactant | magnesium | 2.36 g | [Mg] | Mg
reactant | dibromoethane | BrC(C)Br | C2H4Br2
reactant | 5-bromo-2-(2-ethoxyethoxy)-1,3-dimethylbenzene | 24.1 g | BrC=1C=C(C(=C(C1)C)OCCOCC)C | C12H17BrO2
reactant | trimethyl borate | 19.8 ml | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-(2-ethoxyethoxy)-3,5-dimethylphenylboric acid | 8.4 g | C(C)OCCOC1=C(C=C(C=C1C)OB(O)O)C | C12H19BO5
